US20010027196A1
2-Amino-4-furan-2-yl-6-(2-piperidin-1-yl-ethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, hydroxyethylpiperidine and DBU in DME. ES-MS m/e (%:314 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | hydroxyethylpiperidine | OCCN1CCCCC1 | C7H15NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(2-piperidin-1-yl-ethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCCN1CCCCC1 | C16H19N5O2
